US06514968B1
Preparation 1 1,2,3,9-Tetrahydro-4H-carbazol-4-one
To a solution of 1,3-cyclohexane dione (1.99 g, 17.7 mmol) in water (55 mL) is added phenylhydrazine (1.92 g, 17.7 mmol) in 10 mL of water. A gummy solid quickly formed, which after completion of the addition is scrapped with a spatula to give a solid. The solid is collected, washed with water, and dried in a vacuum oven to give 3.0 g of a tan solid. After drying, the tan solid is stirred at reflux in TFA (25 mL) overnight. Upon cooling, TFA is removed in vacuo and water is added to the residue. The resulting solid is collected, washed with water, and dried to give 1.82 g (55%) of the title compound; mp 218-220° C.; IR (drift) 3150, 3130, 3104, 3093, 3056, 2976, 2954, 2944, 1607, 1577, 1466, 1413, 1251, 1178, 755 cm−1; 1H NMR (CDCl3) δ2.26, 2.64, 3.00, 7.26, 7.35, 8.21, 8.74. Anal. Calcd for C12H11NO: C, 77.81; H, 5.99; N, 7.56. Found: C, 77.82; H, 6.15; N, 7.54.

reactant | 1,3-cyclohexane dione | 17.7 mmol, 1.99 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | phenylhydrazine | 17.7 mmol, 1.92 g | C1(=CC=CC=C1)NN | C6H8N2
solvent | water | 55 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 1,2,3,9-Tetrahydro-4H-carbazol-4-one | 3.0 g | C1CCC(C=2C3=CC=CC=C3NC12)=O | C12H11NO
